Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Ceclor / oxycodone / Penicillins / tramadol
 
Attending: ___.
 
Chief Complaint:
dyspnea on exertion
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ woman with a PMH of HTN and HLD 
presenting with dyspnea on exertion x 1 day

At baseline she can walk up to a mile a day and uses an exercise 
bike. She developed sudden onset shortness of breath while 
walking up the stairs at her house last night that improved with 
rest. This morning, she attempted to go on her typical walk but 
felt so short of breath that she decided to seek care at ___ 
___. 

She has never experienced this sensation before and there is no 
associated chest pain, pleuritic or otherwise, no cough, no 
symptoms at rest, no hemoptysis, and no increased leg swelling. 
She denies any prior history of blood clot. She denies any 
recent travel or extended car or plane trips, and has had no 
recent surgery or trauma. She has no prior personal or family 
history of VTE. She reports she had her last colonoscopy in ___ 
which was reportedly normal and completed her screening. She 
says she had a mammogram last year which was normal completed 
her Pap testing when she was in her ___.

On arrival to ___ she was normotensive with BP 140/96 with 
HR 115, RR 26, satting 92% with labs significant for a DDimer > 
4, Cr 1.2, and troponin I ___ 0.37. She had a CTA chest that 
showed significant right main PA clot and bilateral lobar artery 
filling defects. She was started on heparin GTT and transferred 
for further care. 

On ROS, she denies chest pain, leg pain and swelling. She has 
never had a blood clot in the past. Denies tobacco use. 10 point 
ROS is otherwise negative

ED COURSE: CTPA notable for acute PE in right main PA and liver 
mass Continued on heparin gtt Placed on 4L O2. 
 
Past Medical History:
HTN
HLD
GERD
 
Social History:
___
Family History:
She has no family history of blood clots or autoimmune disease. 
Her mother had ovarian cancer diagnosed at age ___. Her father 
had a CABG in his ___ as well as COPD
 
Physical Exam:
ADMISSION:
=========
VITALS: T 98.1, HR 104 BP 140/96 RR 22 pO2 94% 4L NC
GENERAL - obese, well appearing in NAD, Oriented x3, 
comfortable,
Mood, affect appropriate. 
HEENT - NC/AT, sclerae anicteric, MMM, OP clear,
No xanthalesma. 
NECK - supple, JVD 12cm, no carotid bruits 
LUNGS - CTAB, short of breath when talking
HEART - mildly tachy, Loud P2. No m/r/g.
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding. 
EXTREMITIES - wwp, no c/c/e, 2+ peripheral pulses (radials, DPs)
NEURO - awake, A&Ox3, normal mental status, moves all
extremities, coordination and sensory function grossly intact.
PSYCH: pleasant, appropriate affect

DISCHARGE: 
=========
VS: afeb, BP 120s/80s, HR ___, 93% on RA at rest and with 
ambulation
GENERAL - obese, well appearing in NAD, Oriented x3, 
comfortable,
Mood, affect appropriate. 
HEENT - NC/AT, sclerae anicteric, MMM, OP clear,
No xanthalesma. 
NECK - supple, JVD no carotid bruits 
LUNGS - CTAB, no respiratory distress.
HEART - mildly tachy, Loud P2. No m/r/g.
ABDOMEN - soft/NT/ND, no masses or HSM, no rebound/guarding. 
EXTREMITIES - wwp, no c/c/e, 2+ peripheral pulses (radials, DPs)
NEURO - awake, A&Ox3, normal mental status, moves all
extremities, coordination and sensory function grossly intact.
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS: 
==========================
___ 10:45PM BLOOD WBC-7.1 RBC-4.51 Hgb-13.1 Hct-40.2 MCV-89 
MCH-29.0 MCHC-32.6 RDW-13.2 RDWSD-43.4 Plt ___
___ 10:45PM BLOOD Glucose-108* UreaN-19 Creat-1.0 Na-143 
K-3.7 Cl-104 HCO3-22 AnGap-17
___ 10:45PM BLOOD proBNP-6318*
___ 10:45PM BLOOD cTropnT-0.07*
___ 07:55AM BLOOD cTropnT-0.04*
___ 07:55AM BLOOD ALT-12 AST-22 AlkPhos-133* TotBili-0.9

___ 10:49PM BLOOD Lactate-1.1

IMAGING/OTHER STUDIES: 
======================
OSH CTA Chest:
CTPA notable for acute pulmonary embolus within the right main
pulmonary artery and bilateral lobar branches. There is
associated CT sign of right ventricular strain with RV: LV ratio
greater than 1. There is a mass within the liver for which
further evaluation is recommended to assess for potential
malignancy. 

___ CTa/p w/ contrast
1. 7.7 cm hypodense lesion within hepatic segment ___, with 
enhancement  characteristics consistent with a hemangioma. 
2. Likely smaller hemangioma within hepatic segment VI measuring 
1.0 cm. 
3. Extensive diverticulosis without evidence of acute 
diverticulitis. 

LABS AT DISCHARGE: 
=================
___ 07:35AM BLOOD WBC-6.1 RBC-4.74 Hgb-13.8 Hct-41.6 MCV-88 
MCH-29.1 MCHC-33.2 RDW-13.2 RDWSD-42.4 Plt ___
___ 07:35AM BLOOD Glucose-105* UreaN-20 Creat-1.0 Na-140 
K-3.8 Cl-99 HCO___ AnGap-17
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of HTN and 
HLD who presented to the ___ ED via ___ with a new 
intermediate-high risk pulmonary embolism. 

ACUTE/ACTIVE PROBLEMS: 

# Acute Pulmonary Embolism (intermediate-high risk): 
Presented with acute SOB to ___ with CTA demonstrating 
submassive PE with associated hypoxemia, BNP of 6318, trop of 
0.07, and evidence of RV dysfunction. Patient remained 
hemodynamically stable and was treated with IV heparin gtt x 
48h,  subsequently transitioned to PO apixiban. Evaluated by 
___ team on arrival and without indication for thrombolysis 
or other advanced therapies. Weaned to room air and ambulating 
about floor without symptoms on day of discharge. No provoking 
factors or family history of hypercoagulable state. APLS labs 
pending on discharge and to be followed up as outpatient in 
vascular medicine clinic. Initially, some concern for occult 
malignancy based on incidentally observed liver lesion on CTA 
chest, however, dedicated CT abd/pelvis with 7.7cm benign 
hemangioma but no evidence of malignancy. 

# Hepatic hemangioma:
After mentioning this finding, patient recalls her PCP 
mentioning ___ "spot on the liver" nearly ___ years ago that was 
benign. CT abd/pelvis with 7.7cm hemangioma. Patient without 
symptoms. Not a contraindication to anticoagulation for 
submassive PE, however, due to the lesion's size, recommend 
repeat imaging in six months to monitor stability.

TRANSITIONAL ISSUES:
===================
[] started apixiban loading dose 10mg BID ___ am for 7d, to 
start 5mg BID maintenance dose on ___.
[] ASA 81 discontinued (had been taking only for primary ppx)
[] Recommend surveillance imaging of ~8cm liver hemangioma q6 
months. 
[] Ensure patient is uptodate on routine cancer screening (ie 
colonoscopy, mammogram)

> 30 mins spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Metoprolol Succinate XL 100 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Chlorthalidone 12.5 mg PO DAILY 
5. Omeprazole 20 mg PO DAILY 
6. calcium citrate-vitamin D3 1,000 mg-400 unit/30 mL oral DAILY 


 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg (74 tabs) as dir tablets(s) by mouth 
twice a day Disp #*1 Dose Pack Refills:*0 
2.  calcium citrate-vitamin D3 1,000 mg-400 unit/30 mL oral 
DAILY  
3.  Chlorthalidone 12.5 mg PO DAILY  
4.  Metoprolol Succinate XL 100 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Submassive pulmonary embolism. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a privilege to care for you at the ___. You were 
admitted for further treatment of lung clot. You were treated 
with IV blood thinning medication and improved quickly. You have 
been transitioned to an oral blood thinner, which you will need 
to take as prescribed for at least several months (and possibly 
longer). Please note that you are to take a double dose for the 
first week and then transition to one tab twice day starting 
___:
   1. take two tabs (10mg) twice daily through ___
   2. start one tab (5mg) twice daily beginning ___ and onward. 


Also, you were incidentally found to have a large hemangioma in 
your liver. This should be monitored by your PCP with imaging 
every ___ months, but there is otherwise nothing further to do 
unless you develop symptoms (most commonly RUQ pain). 

Please follow up with all appointments. If you develop any of 
the danger signs listed below, please contact your doctors ___ 
___ to the emergency room immediately.

We wish you the best!

Sincerely,

Your ___ Team
 
Followup Instructions:
___